US05958942
1-[2-[4-(Amino)phenyl]ethan-1-yl)-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one
To a suspension of 80 mg (2.0 mmol) of 60% sodium hydride (dispension in oil) in 10 ml of DMF was added, while stirring at room temperature, 338 mg (1.0 mmol) of 5-[2-[4-(amino)phenyl]ethan-1-ylamino]-3-ethoxycarbonyl-2-methylimidazo[1,2-a]pyridine. The mixture was stirred for 30 minutes. The reaction mixture was poured into water, extracted with ethyl acetate. The extract was washed with an aqueous saline solution, dried over anhydrous magnesium sulfate. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to give 151 mg of the desired compound (51.7%, pale brown solid).

reactant | sodium hydride | 2.0 mmol, 80 mg | [H-].[Na+]
reactant | 5-[2-[4-(amino)phenyl]ethan-1-ylamino]-3-ethoxycarbonyl-2-methylimidazo[1,2-a]pyridine | 1.0 mmol, 338 mg | NC1=CC=C(C=C1)CCNC1=CC=CC=2N1C(=C(N2)C)C(=O)OCC | C19H22N4O2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[2-[4-(Amino)phenyl]ethan-1-yl)-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 151 mg, 51.7% | NC1=CC=C(C=C1)CCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C17H16N4O
